US05215982
To a solution of hydrazinoacetaldehyde diethyl acetal (52.6 g) in ethanol (110 ml) was added dropwise a solution of ethoxymethylenemalononitrile (41.5 g) in ethanol (420 ml) at room temperature. The mixture was stirred at ambient temperature for 24 hours. The reaction mixture was evaporated in vacuo. To the residue was added diethyl ether (400 ml) and the resultant precipitate was filtered off. The filtrate was subjected to column chromatography on silica gel using a mixture of ethyl acetate and hexane (2:3) as an eluent. Fractions containing the object compound were combined and evaporated to give 5-amino-4-cyano-1-(2,2-diethoxyethyl)pyrazole (23.0 g).

reactant | hydrazinoacetaldehyde diethyl acetal | 52.6 g | C(C)OC(CNN)OCC | C6H16N2O2
reactant | ethoxymethylenemalononitrile | 41.5 g | C(C)OC=C(C#N)C#N | C6H6N2O
solvent | ethanol | 110 ml | C(C)O | C2H6O
solvent | ethanol | 420 ml | C(C)O | C2H6O
product | 5-amino-4-cyano-1-(2,2-diethoxyethyl)pyrazole | 23.0 g | NC1=C(C=NN1CC(OCC)OCC)C#N | C10H16N4O2
